US08614206B2
To a solution of N-(1-benzyl-5-hydroxy-4-methylazepan-4-yl)-2,2,2-trifluoroacetamide (1.7 g, 5.0 mmol) in MeOH (30 mL) was added 1M HCl (1 mL) and palladium hydroxide on carbon (0.25 g). The mixture was shaken under an atmosphere of hydrogen gas (40 psi) for 72 hr. The mixture was filtered through Celite® washing with MeOH (30 mL). The solvent was removed under reduced pressure and the residue passed through an SCX column eluting with (1-10% (7 M NH3 in MeOH)/DCM) to give 2,2,2-trifluoro-N-(5-hydroxy-4-methylazepan-4-yl)acetamide as a yellow gum (0.8 g, 66%). 1H (400 MHz, CDCl3) δ 6.90 (br s, 1H), 4.22-4.16 (m, 1H), 3.70-3.60 (m, 1H), 3.40-3.35 (m, 1H), 3.15-2.99 (m, 1H), 2.90-2.75 (m, 2H), 2.20-2.05 (m, 1H), 1.99-1.75 (m, 4H), 1.53 (s, 3H).

reactant | N-(1-benzyl-5-hydroxy-4-methylazepan-4-yl)-2,2,2-trifluoroacetamide | 5.0 mmol, 1.7 g | C(C1=CC=CC=C1)N1CCC(C(CC1)O)(C)NC(C(F)(F)F)=O | C16H21F3N2O2
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.25 g | [OH-].[OH-].[Pd+2]
product | 2,2,2-trifluoro-N-(5-hydroxy-4-methylazepan-4-yl)acetamide | 0.8 g, 66% | FC(C(=O)NC1(CCNCCC1O)C)(F)F | C9H15F3N2O2
